US08207180B2
2-[4-(4-Methyl-piperazin-1-yl)-phenyl]-1H-pyrrolo[2,3-f]isoquinoline (XXA, R2=4-methyl-piperazin-1-yl-phenyl)
To 2-(4-bromo-phenyl)-1H-pyrrolo[2,3-f]isoquinoline XIXB (1.54 mmol), 2-(dicyclohexylphosphino)biphenyl (0.154 mmol), palladium acetate (0.154 mmol) and 1-methylpiperazine (15.46 mmol), degassed DMF (5 mL) and sodium tert-butoxide (4.62 mmol) were added. The mixture was submitted to microwaves at 150° C. for 15 min, the solvent was removed and the crude was purified by chromatography on silica gel (eluant: DCM/MeOH/30% aq NH3 92:8:1) affording the title compound (79% yield). ESI (+) MS: m/z 343 (MH+). 1H NMR: 2.24 (s, 3H), 2.45-2.50 (m, 4H), 3.20-3.26 (m, 4H), 6.96 (d, J=1.46, 1H), 7.07 (d, J=8.90, 2H), 7.58 (d, J=8.54, 1H), 7.78 (d, J=8.54, 1H), 7.85 (d, J=8.90, 2H), 8.43 (d, J=5.85, 1H), 8.50 (d, J=5.73, 1H), 9.18 (s, 1H), 12.33 (s, 1H).

reactant | 2-(4-bromo-phenyl)-1H-pyrrolo[2,3-f]isoquinoline | BrC1=CC=C(C=C1)C1=CC=2C(=C3C=CN=CC3=CC2)N1 | C17H11BrN2
reactant | 2-(dicyclohexylphosphino)biphenyl | 0.154 mmol | C1(CCCCC1)P(C1=C(C=CC=C1)C1=CC=CC=C1)C1CCCCC1 | C24H31P
reactant | 1-methylpiperazine | 15.46 mmol | CN1CCNCC1 | C5H12N2
reactant | sodium tert-butoxide | 4.62 mmol | CC(C)([O-])C.[Na+]
catalyst | palladium acetate | 0.154 mmol | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-[4-(4-Methyl-piperazin-1-yl)-phenyl]-1H-pyrrolo[2,3-f]isoquinoline | 79% yield | CN1CCN(CC1)C1=CC=C(C=C1)C1=CC=2C(=C3C=CN=CC3=CC2)N1 | C22H22N4
